US07138399B2
M1. 2,3-Diamino-4-benzyloxypyridine
A mixture of 0.88 g of 2-amino-4-benzyloxy-3-nitropyridine (starting material M2), 0.81 ml of hydrazine hydrate and 0.100 g of Raney nickel in 25 ml of methanol is heated under reflux until no starting material is detectable by TLC. After filtration and evaporation of the solvent the residue is chromatographed on silica gel (dichloromethane/methanol 20:1+1% triethylamine). Concentration of the pure fractions and drying in vacuo gives 0.66 g of the title compound as a brownish solid of m.p. 135–136° C. The mass spectrum shows the molecular peak MH+ at 216.1 Da.

reactant | 2-amino-4-benzyloxy-3-nitropyridine | 0.88 g | NC1=NC=CC(=C1[N+](=O)[O-])OCC1=CC=CC=C1 | C12H11N3O3
reactant | hydrazine hydrate | 0.81 ml | O.NN
catalyst | Raney nickel | 0.100 g | [Ni] | Ni
solvent | methanol | 25 ml | CO | CH4O
product | 2,3-Diamino-4-benzyloxypyridine | 0.66 g | NC1=NC=CC(=C1N)OCC1=CC=CC=C1 | C12H13N3O
